US07419984B2
6-(5-Chloro-2-ethoxy-phenyl)-N*4*-(1H-indazol-6-yl)-pyrimdine-2,4-diamine
Following the method described in Example 53, 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine and 1H-indazol-6-ylamine provided the title compound (65% yield). 1H NMR (DMSO-d6) δ 1.34 (t, 3H, J=6.9 Hz, CH3), 4.13 (q, 2H, J=6.9 Hz, CH2), 6.26 (s, 2H, NH2), 6.85 (s, 1H, Ar), 7.14 (d, 1H, J=8.9 Hz, Ar), 7.30 (d, 1H, J=8.6 Hz, Ar), 7.41 (dd, 1H, J-8.9 Hz, 2.7 Hz, Ar), 7.65 (d, 1H, J=8.9 Hz, Ar), 7.95-7.97 (m, 3H, Ar), 9.27 (s, 1H, NH), 12.80 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N | C12H11Cl2N3O
reactant | 1H-indazol-6-ylamine | N1N=CC2=CC=C(C=C12)N | C7H7N3
product | 6-(5-Chloro-2-ethoxy-phenyl)-N*4*-(1H-indazol-6-yl)-pyrimdine-2,4-diamine | 65% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C2C=NNC2=C1)OCC | C19H17ClN6O
